US06046235
(2R)-2-(tert-Butoxycarbonylamino)-3-(4-methylbenzylthio)propionic acid (reference compound No. 3-1)
Water (50 ml) and triethylamine (1.9 ml) are added to S-(4-methylbenzyl)-L-cysteine (reference compound No. 2-1) under ice-cooling. Then, a solution of di-tert-butyl dicarbonate (1.9 ml) in tetrahydrofuran (30 ml) is added thereto, and the mixture is stirred overnight at room temperature. A 10% aqueous citric acid solution is added to the system of reaction, and the whole is extracted with ethyl acetate. The organic layer is washed with water and a saturated sodium chloride solution successively, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue is purified by silica gel column chromatography to give the titled compound.

reactant | Water | 50 ml | O | H2O
reactant | S-(4-methylbenzyl)-L-cysteine | CC1=CC=C(CSC[C@H](N)C(=O)O)C=C1 | C11H15NO2S
reactant | di-tert-butyl dicarbonate | 1.9 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
product | (2R)-2-(tert-Butoxycarbonylamino)-3-(4-methylbenzylthio)propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSCC1=CC=C(C=C1)C | C16H23NO4S
